US07598281B2
Analogous to the building block synthesis of 4-iodomethyl-5-phenyl-2-m-tolyloxazole, diacetylmonoxime and m-anisaldehyde gave 4-iodomethyl-2-(3-methoxyphenyl)-5-methyloxazole.

reactant | 4-iodomethyl-5-phenyl-2-m-tolyloxazole | ICC=1N=C(OC1C1=CC=CC=C1)C=1C=C(C=CC1)C | C17H14INO
reactant | diacetylmonoxime | C/C(=N\O)/C(=O)C | C4H7NO2
reactant | m-anisaldehyde | C(C1=CC(=CC=C1)OC)=O | C8H8O2
product | 4-iodomethyl-2-(3-methoxyphenyl)-5-methyloxazole | ICC=1N=C(OC1C)C1=CC(=CC=C1)OC | C12H12INO2
